US06284785B1
(RS)-2-(4-Ethyl-phenyl)-1-(4-chloro-benzenesulfonyl)-pyrrolidine
The title compound, white solid, m.p. 94° C. and MS: m/e=350.3 (M+) was prepared in accordance with the general method of example 1e from (S)-2-(4-ethyl-phenyl)-pyrrolidine and 4-chloro-benzenesulfonyl chloride.

reactant | (S)-2-(4-ethyl-phenyl)-pyrrolidine | C(C)C1=CC=C(C=C1)[C@H]1NCCC1 | C12H17N
reactant | 4-chloro-benzenesulfonyl chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | (RS)-2-(4-Ethyl-phenyl)-1-(4-chloro-benzenesulfonyl)-pyrrolidine | C(C)C1=CC=C(C=C1)C1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)Cl | C18H20ClNO2S
